US03962121
Dimethylmyristylbenzylammonium chloride was synthesized from dimethylmyristylamine and benzyl chloride by a conventional method and the water content of the product was adjusted to 19%. 90 Kg of the mixture (viscosity 60

reactant | dimethylmyristylamine | CC(CCCCCCCCCCCCCN)C | C16H35N
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
product | Dimethylmyristylbenzylammonium chloride | yield was 65% | [Cl-].CC(CCCCCCCCCCCCC[NH2+]CC1=CC=CC=C1)C | InChI=1S/C23H41N.ClH/c1-22(2)17-13-10-8-6-4-3-5-7-9-11-16-20-24-21-23-18-14-12-15-19-23;/h12,14-15,18-19,22,24H,3-11,13,16-17,20-21H2,1-2H3;1H
